US05077174
To a solution of 0.64 mL (2 mmol) of 1-(2-trimethylsiloxyethoxy)-1-trimethylsiloxy-2-methyl-lpropene, 0.55 mL of tetrabutylammonium biacetate (0.04 M in THF), and 0.06 mL of bis(dimethylamino)methylsilane in 40 mL of THF was added dropwise a solution of 20 g (72.5 mmol) of 4-tetrahydropyranyloxybenzyl methacrylate (purified by passing over a column of basic alumina in hexane solution, followed by evaporation of the hexane under reduced pressure) in 30 mL of THF. When the exothermic polymerization was finished, and the temperature had returned to room temperature, the reaction mixture was poured into methanol. Filtration gave 19 g of poly(4-tetrahydropyranyloxybenzyl methacrylate). GPD: Mn =9390, Mw =11,500, MwMn =1.23. DSC: Tg =62.3° C., with a decomposition endotherm at 250.5° C. TGA: rapid loss of 24.74% of weight at 248.1° C. The monomer was prepared from methyl 4-hydroxybenzoate by reaction with an excess of 3,4-dihydro-2H-pyran in the presence of sulfuric acid catalyst to give methyl 4-(2-tetrahydropyranyloxy)benzoate, which was then reduced with lithium aluminum hydride in THF solution to give 4-(2-tetrahydropyranyloxy)benzyl alcohol. Esterification with methacrylyl chloride and triethylamine in dichloromethane solution gave 4-tetrahydropyranyloxybenzyl methacrylate, m.p. 36° C.

reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 3,4-dihydro-2H-pyran | O1CCCC=C1 | C5H8O
catalyst | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | methyl 4-(2-tetrahydropyranyloxy)benzoate | O1C(CCCC1)OC1=CC=C(C(=O)OC)C=C1 | C13H16O4
